US06297258B1
4-(4,4-Dihydroxy-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
After the procedure of Example 117, 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide. (0.51 mmol.) was stirred in dimethylformamide with 4-piperidone monohydrate hydrochloride (470 mg., 3.06 mmol.), and sodium bicarbonate (386 mg., 4.59 mmol.), for 24 hours. The crude product was purified in the same manner as Example 117 and produced 192 mg. (72%) of the product as a yellow solid: mp 225-30° C.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | 4-piperidone monohydrate hydrochloride | 3.06 mmol, 470 mg | Cl.O.N1CCC(CC1)=O
reactant | sodium bicarbonate | 4.59 mmol, 386 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4,4-Dihydroxy-piperidin-1-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCC(CC1)(O)O)=O)OC)C#N | C26H25ClFN5O4
